US05006544
1-Methyl-3-[(5-methyl-1H-imidazol-4-yl)methyl]-4(1H)-quinolinone
A suspension of 2,3-dihydro-1-methyl-4(1H)-quinolinone (915 mg) and 5-methyl-1-(triphenylmethyl)-1H-imidazole-4-carboxaldehyde (2.0 g) in methanol (25 ml) was treated with a solution of potassium hydroxide (0.5 g) in methanol (5 ml). The suspension was stirred at room temperature for 44 h and then filtered. The collected solid was heated at reflux in a mixture of acetic acid (6 ml), water (5 ml) and THF (15 ml) for 3 h. The solution was treated cautiously with 8% aqueous sodium bicarbonate (180 ml) and extracted with dichloromethane (3×60 ml). The combined, dried organic extracts were evaporated to give a solid, which was purified by FCC eluting with System A (100:12:1.2) to give the title compound (208 mg), m.p. 110°-113°.

reactant | 2,3-dihydro-1-methyl-4(1H)-quinolinone | 915 mg | CN1CCC(C2=CC=CC=C12)=O | C10H11NO
reactant | 5-methyl-1-(triphenylmethyl)-1H-imidazole-4-carboxaldehyde | 2.0 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C24H20N2O
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 1-Methyl-3-[(5-methyl-1H-imidazol-4-yl)methyl]-4(1H)-quinolinone | 208 mg | CN1C=C(C(C2=CC=CC=C12)=O)CC=1N=CNC1C | C15H15N3O
